US07262185B2
To 1-(2-butyl)-2-hydroxymethylimidazole (2.70 g) was added thionyl chloride (27 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure, and the obtained residue was recrystallized from ethyl acetate, to give 1-(2-butyl)-2-chloromethylimidazole hydrochloride (3.09 g) as brown crystals.

reactant | 1-(2-butyl)-2-hydroxymethylimidazole | 2.70 g | CC(CC)N1C(=NC=C1)CO | C8H14N2O
reactant | thionyl chloride | 27 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-(2-butyl)-2-chloromethylimidazole hydrochloride | 3.09 g | Cl.CC(CC)N1C(=NC=C1)CCl | InChI=1S/C8H13ClN2.ClH/c1-3-7(2)11-5-4-10-8(11)6-9;/h4-5,7H,3,6H2,1-2H3;1H
